US07875645B2
2-(2,2-Dibromo-vinyl)-1,3-diethyl-4-methoxy-benzene was prepared from 2,6-diethyl-3-methoxy-benzaldehyde, carbon tetrabromide and triphenylphosphine in analogy to Example 1d): colourless oil; 1H-NMR (CDCl3): 1.08 (3H, t, CH3), 1.17 (3H, t, CH3), 2.55 (4H, m, 2×CH2), 3.81 (3H, s, OMe), 6.82 (1H, d, ArH), 7.05 (1H, d, ArH), 7.44 (1H, s, CH═CBr2).

reactant | 2,6-diethyl-3-methoxy-benzaldehyde | C(C)C1=C(C=O)C(=CC=C1OC)CC | C12H16O2
reactant | carbon tetrabromide | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | 2-(2,2-Dibromo-vinyl)-1,3-diethyl-4-methoxy-benzene | BrC(=CC1=C(C=CC(=C1CC)OC)CC)Br | C13H16Br2O
